US20010016659A1
Entry 2: 4-Fluoro-1-nitrobenzene and p-hydroxyacetophenone were reacted according to Method A13, Step 1 to afford the 4-(4-acetylphenoxy)-1-nitrobenzene. 4-(4-Acetylphenoxy)— 1-nitrobenzene was reduced according to Method A13, Step 4 to afford 4-(4-acetylphenoxy)aniline. According to Method C3, 3-tert-butylaniline was reacted with bis(trichloromethyl) carbonate followed by 4-(4-acetylphenoxy)aniline to afford the urea.

reactant | 4-Fluoro-1-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | p-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
product | 4-(4-acetylphenoxy)-1-nitrobenzene | C(C)(=O)C1=CC=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H11NO4
